US08138178B2
A solution of (R)-6-allyl-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one (13.3 mg, 0.030 mmol) in dry THF (1.5 mL) was cooled to 0° C. Disiamyl borane (0.5M in THF, 500 μL, excess) was added. After 10 min, the mixture was warmed to it and stirred for 1 h. The mixture was cooled to 0° C. again, quenched with water (1 mL) and NaBO3 (10 mg). The mixture was concentrated and purified by prep HPLC to afford (R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one (4.2 mg, 30% yield). LC-MS Method 1 tR=1.33 min, m/z=487 (M+1); 1H NMR (CD3Cl) δ 7.47 (dd, 1H), 7.38 (m, 3H), 7.24 (m, 2H), 7.07 (t, 2H), 6.96 (d, 2H), 6.39 (t, 1H), 5.65 (m, 1H), 4.26 (t, 1H), 3.66 (s, 3H), 2.91 (m, 1H), 2.40-2.14 (m, 3H), 1.54 (d, 3H).

reactant | (R)-6-allyl-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 0.030 mmol, 13.3 mg | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C=1C(N(C=CC1)C)=O)C1=CC=C(C=C1)F | C27H27FN2O3
reactant | Disiamyl borane | 0.5M, 500 μL | C(C)(C(C)C)BC(C)C(C)C | C10H23B
reactant | THF | 1.5 mL | C1CCOC1 | C4H8O
product | (R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 4.2 mg, 30% yield | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C=1C(N(C=CC1)C)=O)CCCO | C27H29FN2O4
